US04261892
Preparation of 3-(4,6-dichloro-s-triazin-yl)-3-azabicyclo[3.2.2]nonane
Two hundred and eighty grams (1.5 mole) of cyanuric chloride is dissolved in 1.4 l. of acetone, then 1.8 l. of water is added and the mixture cooled to -10° C. using a dry-ice/acetone bath. 130 g. (1.0 mole) of 3-azabicyclo[3.2.2]nonane slurried in 200 ml. of acetone is then added all at once and the reaction is allowed to stir at -10° C. for 15 minutes. 100 ml. of 10 N NaOH is then added all at once giving rise to a small exotherm. After cooling to -10° C. using the dry-ice/acetone bath, the reaction mixture is stirred without further cooling for 3.8 hours allowing the temperature to rise to about 20° C. Two liters of water is then added, the precipitate filtered off and then washed with water. The precipitate is then dissolved in chloroform, excess water separated, the chloroform solution dried over magnesium sulfate and filtered through Magnesol®. The Magnesol® is then washed with chloroform, solvent removed in vacuo and recrystallized from dichloromethane-hexanes giving 170 g. of needles, m.p. 153°-154° C.

reactant | cyanuric chloride | 1.5 mole, Two hundred and eighty grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-azabicyclo[3.2.2]nonane | 1.0 mole | C12CNCC(CC1)CC2 | C8H15N
reactant | NaOH | 10 N | [OH-].[Na+]
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
solvent | water | Two liters | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-(4,6-dichloro-s-triazin-yl)-3-azabicyclo[3.2.2]nonane | ClC1=NC(=NC(=N1)Cl)N1CC2CCC(C1)CC2 | C11H14Cl2N4
